Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___ exploratory-laparotomy, large bowel resection, proximal 
transverse colostomy 

 
History of Present Illness:
___ with a history of anxiety, obesity, dysfunctional uterine 
bleeding, hypertension, hyperlipidemia, DJD, brain aneurysm, 
Alzheimer's disease, atrial
fibrillation formerly on Xarelto, thymoma, lung cancer, 
osteoporosis and a new diagnosis of biopsy-proven adenocarcinoma 
of the colon with presumed metastases to the liver and spleen as 
seen on imaging. She presents to the ED after 1 day of vomiting 
and diarrhea. She began complaining of abdominal pain on ___ 
and was noted to have emesis of gastric contents that progressed 
to numerous bilious emesis the morning of ___. She was 
evaluated by her PCP who was concerned for a small bowel 
obstruction and sent her to the ED for a surgery consultation. 

The patient is a poor historian given her Alzheimer's diagnosis 
and accompanied by daughter and granddaughter who verify the 
timeline above. 

 
Past Medical History:
Lung cancer diagnosed in ___, stage 1, s/p radiation
Alzheimer's disease
Atrial fibrillation on xarelto
Anxiety
Obesity
Dysfunctional uterine bleeding
Hysterectomy
Brain aneurysm
Thymoma
Osteoporosis
Degenerative joint disease
 
Social History:
___
Family History:
Positive for diabetes in several family members,
positive for CAD in her brother. Positive for lung cancer in her
brother, positive for prostate cancer in her brother, positive
for breast cancer in her sister, positive for brain cancer in 
her
brother.
 
Physical Exam:
Physical Exam: ___ upon admission:
Vitals: 97.7 105 121/83 18 99% RA 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: IRIR, tachy
PULM: NRD
ABD: Soft, well healed midline abdominal scar. Mild distention, 
nontender. Large reducible hernia at inferior and to R of 
midline
abdominal vertical scar w/o skin changes. No rebound/guarding. 
Ext: No ___ edema, ___ warm and well perfused

DISCHARGE EXAM: 
T98.0, HR72, BP122/74, RR16 97%RA 
GEN: AOx1 (person), NAD, pleasant, well-appearing
HEENT: atraumatic, normocephalic, MMM
CV: regular rate, irregular rhythm, +S1/S2
PULM: CTAB, (-)wheezes, crackles
GI: soft, mild distension, non-tender; ostomy in RLQ pink and 
patent, productive of stool
EXT: WWP, no CCE 

 
Pertinent Results:
___ 06:45AM BLOOD WBC-5.2 RBC-3.76* Hgb-9.0* Hct-30.6* 
MCV-81* MCH-23.9* MCHC-29.4* RDW-29.4* RDWSD-82.4* Plt ___
___ 07:07AM BLOOD WBC-7.5 RBC-3.89* Hgb-9.1* Hct-31.2* 
MCV-80* MCH-23.4* MCHC-29.2* RDW-29.3* RDWSD-80.9* Plt ___
___ 05:18AM BLOOD WBC-9.4 RBC-4.02 Hgb-9.6* Hct-32.6* 
MCV-81* MCH-23.9* MCHC-29.4* RDW-29.7* RDWSD-82.1* Plt ___
___ 05:20PM BLOOD WBC-13.1* RBC-5.12 Hgb-12.0 Hct-41.4 
MCV-81* MCH-23.4* MCHC-29.0* RDW-30.2* RDWSD-84.0* Plt ___
___ 05:20PM BLOOD Neuts-84.1* Lymphs-8.8* Monos-6.5 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-11.02* AbsLymp-1.15* 
AbsMono-0.85* AbsEos-0.01* AbsBaso-0.03
___ 06:45AM BLOOD Plt ___
___ 06:45AM BLOOD ___ PTT-32.2 ___
___ 11:35AM BLOOD ___ PTT-31.2 ___
___ 06:45AM BLOOD Glucose-116* UreaN-5* Creat-0.7 Na-139 
K-3.3 Cl-108 HCO3-20* AnGap-14
___ 09:26PM BLOOD Glucose-150* UreaN-7 Creat-0.8 Na-134 
K-3.5 Cl-103 HCO3-20* AnGap-15
___ 05:20PM BLOOD ALT-21 AST-153* AlkPhos-43 TotBili-0.8
___ 05:20PM BLOOD Lipase-32
___ 06:45AM BLOOD Calcium-7.7* Phos-2.7 Mg-2.3
___ 10:39PM BLOOD Lactate-1.2 K-4.8

___: CT abd. and pelvis:

  
1.  Obstructing distal transverse colonic mass with upstream 
dilation of small and large bowel.  The colon proximal to the 
mass demonstrates hyperemia and mild wall thickening.  Small 
amount of free fluid adjacent to the liver, in the pelvis and 
surrounding right-sided bowel loops. 
2.  Right ventral abdominal wall small bowel containing hernia.  
Though loops of bowel are distended in association with this 
hernia, they are also dilated throughout and distal to the 
hernia and the cause of the obstruction is thought to be at the 
level of the colon. 
3.  Findings worrisome for metastases with soft tissue nodule 
adjacent to the primary mass and additional lesions in the 
spleen and liver. 
4.  Lesions at the lung bases as previously noted with right 
pulmonary nodule which could be metastatic.  Perhaps chronic 
scarring at the left lung base. 
4. Cholelithiasis without CT findings to suggest cholecystitis. 
  

 
Brief Hospital Course:
The patient presented to pre-op/Emergency Department on ___ 
with nausea, vomiting, and abdominal pain.  The patient was 
evaluated by the acute care surgery team. Given findings, the 
patient was admitted to the ACS service with plans to 
conservatively manage the bowel obstruction with serial 
abdominal exams and consideration for operative management. The 
decision was made to take 
Neuro: The patient was pleasant but disoriented throughout 
hospitalization. At time of admission through the ___ 
period she was delirious and unable to participate in her care; 
soft restraints were utilized as needed to keep necessary tubes, 
lines and drains in place. By POD#2 the patient no longer 
required restraints. She was oriented to person, but not to 
place or time and required frequent redirection and reminders of 
her operation. Pain was managed with IV modalities and 
transitioned to oral once tolerating a diet. 

CV: The patient was in atrial fibrillation with rapid 
ventricular rate at time of admission. Heart rate was managed 
with IV beta blockers and calcium channel blockers with 
appropriate rate control, and was transitioned to oral agents 
when the patient was tolerating a diet. She was noted to be more 
responsive to rate control following operative intervention, and 
was managed on oral beta blocker and (new) calcium channel 
blocker dual therapy without recurrence of rapid ventricular 
rate. Her heart rate was noted to be elevated with 
activity/exertion, one of the indicators for acute rehab. 

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. The patient was weaned 
off oxygen and saturating appropriately on room air for the 
duration of her post-operative hospitalization. 

GI/GU/FEN: The patient was initially kept NPO with a 
___ tube in place for decompression. She did not 
adequately resolve with conservative management and on ___ was 
taken to the operating room and underwent large bowel resection 
and creation of a transverse colostomy. The NGT was removed on 
POD#1 and diet was advanced sequentially to a regular diet, 
which was well-tolerated. Patient's intake and output were 
closely monitored. Stool-bulking agents were added to titrate 
ostomy output to a range of 500-1200 cc/day. Electrolytes were 
monitored closely and repleted as necessary. 

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none. Her white count was trended 
until it reached normal limits. 

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none. Given the patient's 
cardiac history and presentation in atrial fibrillation with 
RVR, the decision was made to restart anti-coagulation 
(previously on Xarelto). Coumadin was initiated on ___ and 
titrated to a goal INR of ___. INRs were checked daily and 
Coumadin dosage changed accordingly. INR checks and Coumadin 
management will continue at rehab. 

ONC: The patient is known to Dr. ___ of oncology and 
currently undergoing work-up for colon cancer. The family spoke 
with Dr. ___ this hospitalization to discuss next 
steps in management, and will follow-up with Dr. ___ in the 
office next week. They declined a palliative care consult while 
in-patient. 

NEURO: The patient carries a diagnosis of Alzheimers and is 
alert and oriented to person, but not place, time or situation; 
for instance, she required frequent reminding of her 
hospitalization and surgery. The patient was agitated 
pre-operatively, requiring soft restraints (mitts). 
Post-operatively her agitation resolved. Family was bedside at 
all times, and HCP was utilized for all decision-making.  

Prophylaxis: The patient utilized ___ dyne boots were used 
during this stay and was encouraged to get up and ambulate as 
early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Alendronate Sodium 70 mg PO QSUN 
2. Donepezil 5 mg PO BID 
3. Memantine 10 mg PO BID 
4. Metoprolol Succinate XL 150 mg PO DAILY 
5. Sertraline 25 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Ferrous Sulfate 325 mg PO DAILY 
8. Vitamin B Complex 1 CAP PO DAILY 
9. Diclofenac Sodium ___ 50 mg PO ASDIR 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
2.  Aspirin 81 mg PO DAILY  
3.  Calcium Carbonate 500 mg PO BID  
4.  Diltiazem 30 mg PO Q8H  
5.  Metoprolol Tartrate 25 mg PO QID  
6.  ___  MD to order daily dose PO DAILY16  
7.  Alendronate Sodium 70 mg PO QSUN  
8.  Diclofenac Sodium ___ 50 mg PO ASDIR  
9.  Donepezil 5 mg PO BID  
10.  Ferrous Sulfate 325 mg PO DAILY  
11.  Memantine 10 mg PO BID  
12.  Sertraline 25 mg PO DAILY  
13.  Vitamin B Complex 1 CAP PO DAILY  
14.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
bowel obstruction

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain, nausea, 
and vomiting. Imaging studies showed a small bowel obstruction.  
You were taken to the operating room where you underwent an 
exploratory laparotomy, resection of colon cancer and proximal 
transverse colostomy. During your post-operative course, you had 
large amount of watery diarrhea and you required additional 
intravenous fluids.  You were started on Coumadin to replaced 
the xarelto.  You were evaluated by physical therapy and 
recommendations made for discharge to a rehabilitation facility. 
 You are being discharged with the following instructions:     

 
 
 
Followup Instructions:
___